US04642308
The procedure is similar to that described in Example 4, but starting with 2-amino-7-chloro-1,8-naphthyridine (17.95 g), 3-methylphenol (43.2 g) and potassium hydroxide pellets (13.2 g; 85% purity). After treatment with caustic soda and washing, the product produced (21.6 g; m.p. 148° C.) is dissolved in boiling ethyl acetate (200 cc). After 18 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethyl acetate (10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). 2-amino-7-(3-methylphenoxy)-1,8-naphthyridine (9 g) is produced, m.p. 152° C. EXAMPLE 41

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.95 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 3-methylphenol | 43.2 g | CC=1C=C(C=CC1)O | C7H8O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 2-amino-7-(3-methylphenoxy)-1,8-naphthyridine | 9 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC(=CC=C1)C | C15H13N3O
